US08071624B2
A mixture of 3-oxo-3H-spiro[2-benzofuran-1,1′-cyclohexan]-4′-yl methanesulfonate (120 mg, 0.40 mmol), sodium azide (263 mg, 4.05 mmol) in DMF (2.0 mL) was maintained at 80° C. overnight. After cooling, it was quenched with sat'd NH4Cl solution, then extracted with ethyl acetate. The extract was washed with water twice, brine once, and dried over anhydrous sodium sulfate. After filtration the filtrate was concentrated to yield 90 mg of 4′-azido-3H-spiro[2-benzofuran-1,1′-cyclohexan]-3-one (yield: 91%).

reactant | 3-oxo-3H-spiro[2-benzofuran-1,1′-cyclohexan]-4′-yl methanesulfonate | 0.40 mmol, 120 mg | CS(=O)(=O)OC1CCC2(CC1)OC(C1=C2C=CC=C1)=O | C14H16O5S
reactant | sodium azide | 4.05 mmol, 263 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 4′-azido-3H-spiro[2-benzofuran-1,1′-cyclohexan]-3-one | 90 mg, yield: 91% | N(=[N+]=[N-])C1CCC2(CC1)OC(C1=C2C=CC=C1)=O | C13H13N3O2
